14
R0102 1 2 1000
R0103 1 3 100000
R0104 1 4 100000
R0105 1 5 1000
R0607 6 7 1000
R0608 6 8 100000
R0609 6 9 100000
R0610 6 10 1000
C0302 3 2 1E-7
C0504 5 4 1E-7
C0807 8 7 1E-7
C1009 10 9 1E-7
Q0709 7 9 0 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E9
Q1008 10 8 0 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E9
F0004 0 4 4 11 5E-1
F0003 0 3 3 12 5E-1
F0204 2 4 4 13 9.9E-1
F0503 5 3 3 14 9.9E-1
D1300 13 0 1E-9 4.3429445E-2
D1400 14 0 1E-9 4.3429445E-2
D1102 11 2 1E-9 4.3429445E-2
D1205 12 5 1E-9 4.3429445E-2
I0400 4 0 PULSE 0 1E-3 1E-3 0 0 1E-3 1000 1
I0900 9 0 PULSE 0 1E-3 1E-3 0 0 1E-3 1000 1
VCC 1 0 DC 10
VCC 6 0 DC 10
.TRAN 100E-3 100E-7 TETA 0.55 1